US07358243B2
(±)-1-[9-Benzyl-3,9-diazabicyclo[4.2.1]non-3-yl]-propan-1-one
To a mixture of 9-benzyl-3,9-diazabicyclo[4.2.1]nonane (5.0 g, 23 mmol), diisopropylethylamine (4.35 ml, 25 mmol) in THF (50 ml) was added propionic acid anhydride (3.2 ml, 25 mmol) solved in THF (10 ml) over a time period of 10 min. The mixture was stirred at room-temperature for 1 h. The mixture was evaporated, aqueous sodium hydroxide (50 ml, 1M) was added and the mixture was extracted with diethyl ether (2×50 ml). The product was isolated as an oil. Yield 7.4 g (100%).

reactant | 9-benzyl-3,9-diazabicyclo[4.2.1]nonane | 23 mmol, 5.0 g | C(C1=CC=CC=C1)N1C2CNCCC1CC2 | C14H20N2
reactant | diisopropylethylamine | 25 mmol, 4.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propionic acid anhydride | 25 mmol, 3.2 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-1-[9-Benzyl-3,9-diazabicyclo[4.2.1]non-3-yl]-propan-1-one | C(C1=CC=CC=C1)N1C2CN(CCC1CC2)C(CC)=O | C17H24N2O
